US04001419
A solution of xanthene 9,9-diacetic acid (0.8 g.) in acetic anhydride (3 ml.) is heated under reflux for 1 hour, cooled and poured into water. Extraction with ethyl acetate gives xanthene-9-spiro-4'-tetrahydropyran-2',6'-dione which is recrystallised from ethyl acetate-petroleum ether (b.p. 60°-80° C.), m.p. 188°-190° C.

reactant | xanthene 9,9-diacetic acid | 0.8 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)(CC(=O)O)CC(=O)O | C17H14O5
reactant | water | O | H2O
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | xanthene-9-spiro-4'-tetrahydropyran-2',6'-dione | O1C(CC2(CC1=O)C1=CC=CC=C1OC=1C=CC=CC12)=O | C17H12O4
